US09061067B2
A mixture of 16-bromohexadecanoic acid (16.61 g, 49.5 mmol), DMSO (150 ml), NaCN (12.5 g, 255 mmol), and NaI (1.92 g, 12.8 mmol) was stirred at 120° C. for 20 h. The mixture was allowed to cool to room temperature, and was then poured into a stirred mixture of water (1.7 l) and concentrated HCl (30 ml). Rinsing with water (100 ml). The resulting suspension was stirred at room temperature overnight. The product was filtered and washed with water (2×100 ml), and the solid was recrystallized twice from MeCN (90 ml and 50 ml). 10.1 g (72%) of 16-cyanohexadecanoic acid was obtained.

reactant | 16-bromohexadecanoic acid | 49.5 mmol, 16.61 g | BrCCCCCCCCCCCCCCCC(=O)O | C16H31BrO2
reactant | NaCN | 255 mmol, 12.5 g | [C-]#N.[Na+]
reactant | NaI | 12.8 mmol, 1.92 g | [Na+].[I-]
reactant | HCl | 30 ml | Cl | ClH
solvent | water | 1.7 l | O | H2O
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | 16-cyanohexadecanoic acid | 10.1 g, 72% | C(#N)CCCCCCCCCCCCCCCC(=O)O | C17H31NO2
